* C:\windows\profiles\tlh24\My Documents\svn\myopen\emg_dsp\stage4\stage4_1.asc
R1 N003 N002 33k
R2 N002 N007 2.7k
R3 N004 P001 10k
R4 N006 N004 180k
C1 N007 0 44µf
C2 P001 N003 10µf
C3 N006 N004 270pf
V1 N001 0 5
V2 0 N008 5
V3 N005 0 AC 0.001
C4 N003 N002 1.5nf
XU1 N005 N002 N001 N008 N003 LT1639
XU2 0 N004 N001 N008 N006 LT1639
.ac oct 16 0.01 1e5
.lib LTC.lib
.backanno
.end
